US08138197B2
Methyl 2-oxo-6-phenyl-1,2-dihydropyridine-4-carboxylate
In a nitrogen atmosphere, 10% palladium-carbon (3.2 g) was added to an EtOH (50 mL)-THF (5 mL) mixed solution of methyl 2-phenyl-6-benzyloxypyridine-4-carboxylate (5.3 g), and in a hydrogen atmosphere, this was stirred at room temperature for 9 hours. The reaction liquid was filtered through Celite, concentrated under reduced pressure, and a mixed solution of hexane/ethyl acetate=2/1 was added thereto. The precipitate was taken out through filtration, washed with that solution, and dried to obtain the title compound as a white powder. The filtrate was concentrated, and the residue was purified through silica gel column chromatography (from hexane/ethyl acetate to chloroform/methanol), and combined with the previous powder to obtain the title compound as a white powder.

reactant | EtOH | 50 mL | CCO | C2H6O
reactant | methyl 2-phenyl-6-benzyloxypyridine-4-carboxylate | 5.3 g | C1(=CC=CC=C1)C1=NC(=CC(=C1)C(=O)OC)OCC1=CC=CC=C1 | C20H17NO3
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 3.2 g | [C].[Pd]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | Methyl 2-oxo-6-phenyl-1,2-dihydropyridine-4-carboxylate | O=C1NC(=CC(=C1)C(=O)OC)C1=CC=CC=C1 | C13H11NO3
